US05834454
A mixture of iron powder (2.42 g, 43.3 mmol) and acetic acid (40 ml) was stirred at 70° C. Then, a solution of ethyl [3-[N-methyl-N-[2-(2-tetrahydro-2H-pyranyl) oxyethyl]amino]-2-nitro-6-trifluoromethylphenyl]pyruvate (2.00 g, 4.33 mmol) in toluene (20 ml) was added dropwise to the aforesaid mixture, followed by stirring at 78°-83° C. for 2 hours. The reaction mixture was cooled to 30° C., after which 2N hydrochloric acid (20 ml) and tetrahydrofuran (20 ml) were added and the resulting mixture was stirred at room temperature for 2.5 hours. Subsequently, the reaction mixture was poured into an aqueous ammonia solution and ethyl acetate (300 ml) was added and then stirred. After being separated, the aqueous layer was extracted with ethyl acetate (200 ml) and the combined organic layer was washed with a 5% aqueous sodium chloride solution and then a 5% aqueous sodium hydrogencarbonate solution. The washed organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane= 1/9) to obtain ethyl 7-[N-methyl-N-(2-hydroxyethyl)amino]-4-trifluoromethyl-1H-indole-2-carboxylate.

reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | ethyl [3-[N-methyl-N-[2-(2-tetrahydro-2H-pyranyl) oxyethyl]amino]-2-nitro-6-trifluoromethylphenyl]pyruvate | 4.33 mmol, 2.00 g | CN(CCOC1OCCCC1)C=1C(=C(C(=CC1)C(F)(F)F)CC(C(=O)OCC)=O)[N+](=O)[O-] | C20H25F3N2O7
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | iron | 43.3 mmol, 2.42 g | [Fe] | Fe
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 7-[N-methyl-N-(2-hydroxyethyl)amino]-4-trifluoromethyl-1H-indole-2-carboxylate | CN(CCO)C=1C=CC(=C2C=C(NC12)C(=O)OCC)C(F)(F)F | C15H17F3N2O3
